US04088775
(b) (2RS,3aR,4R,5R,6aS)-4-(3,3-Ethylenedioxy-4-phenoxy-1-butyl)-2,5-dihydroxyperhydrocyclopenta[b]furan
At -60° under argon, 16 ml. of a 20% solution of diisobutylaluminum hydride in toluene was added dropwise to a solution of 1.65 g. of (1S,5R,6R,7R)-6-(3,3-ethylenedioxy-4-phenoxy-1-butyl)-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one (produced in accordance with Example 2[a]) in 100 ml. of absolute toluene; the mixture was stirred for 30 minutes. By the dropwise addition of 5 ml. of isopropanol, the reaction was terminated, and the mixture was stirred for 30 minutes at 0° while adding 100 ml. of brine. Then, the mixture was extracted with ethyl acetate, shaken with brine, dried with magnesium sulfate, and evaporated under vacuum. Filtration of the residue with ether over 35 g. of silica gel yielded 1.1 g. of the title compound as a colorless oil. IR: 3600,1500 cm-1.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | (1S,5R,6R,7R)-6-(3,3-ethylenedioxy-4-phenoxy-1-butyl)-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one | C1OC(CC[C@@H]2[C@H]3CC(O[C@H]3C[C@H]2OC(C2=CC=CC=C2)=O)=O)(COC2=CC=CC=C2)OC1 | C26H28O7
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2RS,3aR,4R,5R,6aS)-4-(3,3-Ethylenedioxy-4-phenoxy-1-butyl)-2,5-dihydroxyperhydrocyclopenta[b]furan | C1OC(CC[C@H]2[C@@H](C[C@@H]3OC(C[C@@H]32)O)O)(COC3=CC=CC=C3)OC1 | C19H26O6
